US04769373
1-Butyl-4-piperidone is reacted with dimethylamine gas as described in Example 1, affording 1-butyl-4-dimethylamino-1,2,5,6-tetrahydropyridine with a yield of 77.9%, bp.: 103°-106° C./1.5 kPa. The tetrahydropyridine derivative so obtained is freshly distilled and reacted with acrolein as described in Example 1, to give a light yellow oil with a yield of 44.2%, consisting of 75% of 6α-, and 25% of 6β-dimethylamino-3-butyl-3-azabicyclo[3.3.1]nonan-9-one, bp.: 110°-116° C./7 Pa; nD20 =1.4933.

reactant | 1-Butyl-4-piperidone | C(CCC)N1CCC(CC1)=O | C9H17NO
reactant | dimethylamine | CNC | C2H7N
product | 1-butyl-4-dimethylamino-1,2,5,6-tetrahydropyridine | yield of 77.9% | C(CCC)N1CC=C(CC1)N(C)C | C11H22N2
